US05885986
A yellow suspension of 2.45 g (0.00754 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-thiocarboxamide in 130 ml of dioxan was treated with 1.05 g (0.00829 mol) of 1,3-dichloro-2-propanone. The suspension was boiled at reflux for 20 hrs. and cooled. A further 1.05 g (0.00829 mol) of 1,3-dichloro-2-propanone and 60 ml of dioxan were added and the solution was boiled at reflux for a further 16 hrs. The solution was cooled and completely freed from the solvents. The residue was chromatographed over silica gel with cyclohexane/ethyl acetate 1:2 as the eluent and recrystallized from hot acetonitrile. There were obtained 1.05 g (35%) of 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 234°-235°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-thiocarboxamide | 0.00754 mol, 2.45 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(N)=S)C)=O)F | C13H10ClFN4OS
reactant | 1,3-dichloro-2-propanone | 0.00829 mol, 1.05 g | ClCC(CCl)=O | C3H4Cl2O
reactant | 1,3-dichloro-2-propanone | 0.00829 mol, 1.05 g | ClCC(CCl)=O | C3H4Cl2O
solvent | dioxan | 130 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 60 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.05 g, 35% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C=1SC=C(N1)CCl)C)=O)F | C16H11Cl2FN4OS
